US06528504B2
(R)-2-hydroxymethylpiperidine (288 mg, 2.50 mmol), 3-(4-methoxyphenyl)propyl mesylate (915 mg, 3.75 mmol), sodium carbonate (398 mg, 3.75 mmol) and sodium iodide (30 mg, 0.20 mmol) were added to acetonitrile (25 ml), and they were heated under reflux at 90° C. for 6 hours. The solvent was evaporated under reduced pressure. The residue was distributed in ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with water and dried over magnesium sulfate. Then the solvent was evaporated under reduced pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with dichloromethane as the eluent and then with dichloromethane and methanol (20:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (R)-2-hydroxymethyl-1-[3-(4-methoxy-phenyl) propyl]piperidine in the form of a light yellow oil (422 mg, 64%).

reactant | (R)-2-hydroxymethylpiperidine | 2.50 mmol, 288 mg | OC[C@@H]1NCCCC1 | C6H13NO
reactant | 3-(4-methoxyphenyl)propyl mesylate | 3.75 mmol, 915 mg | S(C)(=O)(=O)OCCCC1=CC=C(C=C1)OC | C11H16O4S
reactant | sodium carbonate | 3.75 mmol, 398 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.20 mmol, 30 mg | [I-].[Na+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | (R)-2-hydroxymethyl-1-[3-(4-methoxy-phenyl) propyl]piperidine | OC[C@@H]1N(CCCC1)CCCC1=CC=C(C=C1)OC | C16H25NO2
